US07592342B2
Preparation of 2-amino-N,N-dimethyl-5-[3-(4-pyridinyl)-6-quinoxalinyl]-3-pyridinesulfonamide
A mixture of 7-bromo-2-(4-pyridinyl)quinoxaline (0.245 mmol), 2-amino-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinesulfonamide (0.245 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.0196 mmol), 2M aqueous potassium carbonate (2 mL) and anhydrous 1,4-dioxane (6 mL) was heated at 100° C. for 4 h in a sealed pressure vessel. After cooling to room temperature, the organic layer was separated and purified directly on silica gel, eluting with 0-10% methanol in ethyl acetate followed by a second purification by HPLC (eluting with acetonitrile: 0.1% TFA in H2O) to afford the title compound as a bright yellow solid (47 mg, 47% yield). MS(ES)+ m/e 407.2 [M+H]+.

reactant | 7-bromo-2-(4-pyridinyl)quinoxaline | 0.245 mmol | BrC1=CC=C2N=CC(=NC2=C1)C1=CC=NC=C1 | C13H8BrN3
reactant | 2-amino-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinesulfonamide | 0.245 mmol | NC1=NC=C(C=C1S(=O)(=O)N(C)C)B1OC(C(O1)(C)C)(C)C | C13H22BN3O4S
reactant | potassium carbonate | 2M, 2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 2-amino-N,N-dimethyl-5-[3-(4-pyridinyl)-6-quinoxalinyl]-3-pyridinesulfonamide | 47 mg, 47% yield | NC1=NC=C(C=C1S(=O)(=O)N(C)C)C=1C=C2N=C(C=NC2=CC1)C1=CC=NC=C1 | C20H18N6O2S
